US05231102
Trans-2-carboxy-5,7-dichloro-4-(N,N-diphenylamino)carbonylamino-1,2,3,4-tetrahydroquinoline
This compound was prepared by the method given in Example 37 step b) using trans-2-methoxycarbonyl-5,7-dichloro-4-(N,N-diphenylamino)carbonylamino-1,2,3,4-tetrahydroquinoline in place of trans-5,7-dichloro-2-methoxycarbonyl-4-phenylmethylcarbonylamino-1,2,3,4-tetrahydroquinoline to give the title compound as colourless crystals, m.p. 214°-216° C. δ (360 MHz, DMSO), 1.63 (1H, ddd, 13.0, 12.1 and 3.9 Hz, CHACHBHCCHD), 2.33 (1H, dm, J=13.0 Hz, CHACHBHCCHD), 3.88 (1H, dm, J=12.1 and 2.8 Hz, CHACHBHCCHD), 4.99 (1H, m, CHACHBHCCHD), 6.63 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.65 (1H, d, J=7.2 Hz, NHCO), 6.80 (1H, d, J=2.0 Hz, 6-H or 8-H), 7.12 (5H, m, ArH), 7.16 (1H, s, ArNH), 7.31 (5H, m, ArH); m/e (CI+) 456 (M+1); Found C, 59.63; H, 4.36; N, 8.89. C23H19Cl2N3O3.0.5H2O requires C, 59.37; H, 4.33; N, 9.03%.

reactant | trans-2-methoxycarbonyl-5,7-dichloro-4-(N,N-diphenylamino)carbonylamino-1,2,3,4-tetrahydroquinoline | COC(=O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)Cl)Cl | C24H21Cl2N3O3
solvent | DMSO | CS(=O)C | C2H6OS
product | Trans-2-carboxy-5,7-dichloro-4-(N,N-diphenylamino)carbonylamino-1,2,3,4-tetrahydroquinoline | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)Cl)Cl | C23H19Cl2N3O3
